US06255496B1
4-[N-Dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester
A solution of 4[N-Dodecyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]-butanoic acid, ethyl ester (315 mg, 0.53 mmol) in trifluoroacetic acid (5 ml) was heated to 70° C. for 2 h, and then concentrated in vacuo. The residue was diluted with ethyl acetate (100 ml), washed with sat. sodium bicarbonate (30 ml), brine (30 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (Hexane/ethyl acetate 2:1 to 1.5:1) to afford the title compound (224 mg, 77%) as a colorless oil.

reactant | 4[N-Dodecyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]-butanoic acid, ethyl ester | 0.53 mmol, 315 mg | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCC(=O)OCC | C32H54F3NO5
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[N-Dodecyl-N-[2-[4-(3-oxo-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | 224 mg, 77% | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCCC(=O)OCC | C30H48F3NO4
